US05021478
1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl Chloroacetate
A mixture of 45.2 g (0.177 mol) of 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine, 17.9 g (0.177 mol) of triethylamine, and 150 ml of dichloromethane is added over a 1 hour interval at 5° C. to a solution of 20.0 g (0.177 mol) of chloroacetyl chloride in 100 ml of dichloromethane. The reaction mixture is stirred at ambient temperature for 1 hour and then diluted with diethyl ether (500 ml). Solids are removed by filtration, and the filtrate is washed with 1N hydrochloric acid (2×100 ml), saturated sodium bicarbonate solution (200 ml), and saturated sodium chloride solution (200 ml), then dried over magnesium sulfate and concentrated to obtain an oil. Purification by flash chromatography on silica gel (5:1 heptane: ethyl acetate) affords 22.6 g (39% yield) of the title compound, a white solid, mp 62°-4° C.

reactant | 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.177 mol, 45.2 g | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | triethylamine | 0.177 mol, 17.9 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.177 mol, 20.0 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl Chloroacetate | 22.6 g, 39% yield | ClCC(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C17H30ClNO3
